US04299824
A suspension of 4-mercapto-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)pyrazolo[3,4-d]pyrimidine (1.0 g) and potassium carbonate (0.37 g) in N,N-dimethylformamide was stirred for 10 minutes and then cinnamyl bromide (0.53 g) was added. After stirring for 3 hr. at 40° C. the solution was filtered and 100 ml chloroform was added. The solution was extracted with water. The chloroform layer was dried, filtered and taken to dryness on a rotary evaporator. The residue was purified on a column of silica gel using chloroform as the eluant. The fractions containing the product were pooled and taken to dryness in vacuo. The residue was dissolved in chloroform, filtered through a Millipore filter in vacuo and evaporated in vacuo, to give the product 4-cinnamylthio-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)pyrazolo[3,4-d]pyrimidine as a glass.

reactant | 4-mercapto-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)pyrazolo[3,4-d]pyrimidine | 1.0 g | SC1=C2C(=NC=N1)N(N=C2)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O | C16H18N4O7S
reactant | potassium carbonate | 0.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | cinnamyl bromide | 0.53 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-cinnamylthio-1-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)pyrazolo[3,4-d]pyrimidine | C(C=CC1=CC=CC=C1)SC1=C2C(=NC=N1)N(N=C2)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O | C25H26N4O7S
